US08283354B2
(E)-N-(4-Fluorophenyl)-2-(hydroxyimino)acetamide
4-Fluoroaniline (58.2 g, 0.50 mol) was added slowly to 10% aqueous HCl solution. This suspension was added to a mixture of chloral hydrate (95 g, 0.55 mol) and sodium sulfate (0.5 kg) in 750 mL water with mechanical stirring. Hydroxylamine hydrochloride (116 g, 1.63 mol) dissolved in water (250 mL) was added, and the resulting slurry was heated at 100° C. After this temperature was reached, the heating mantle was removed immediately, and the solution was cooled to room temperature. The formed precipitate was collected by filtration, washed with water (2×300 mL), and dried in a vacuum oven at 60° C. Yield: 78.2 g of N-(4-fluorophenyl)-2-hydroxyiminoacetamide as an off-white solid.

reactant | 4-Fluoroaniline | 0.50 mol, 58.2 g | FC1=CC=C(N)C=C1 | C6H6FN
reactant | HCl | Cl | ClH
reactant | chloral hydrate | 0.55 mol, 95 g | ClC(C(O)O)(Cl)Cl | C2H3Cl3O2
reactant | sodium sulfate | 0.5 kg | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | Hydroxylamine hydrochloride | 1.63 mol, 116 g | Cl.NO
solvent | water | 750 mL | O | H2O
solvent | water | 250 mL | O | H2O
product | (E)-N-(4-Fluorophenyl)-2-(hydroxyimino)acetamide | FC1=CC=C(C=C1)NC(/C=N/O)=O | C8H7FN2O2
